US05464796
282 mg (1 mmol) of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid are stirred in 3 ml of acetonitrile with 310 mg (2 mmol) of 4-methylamino-1,3,3a,4,7,7a-hexahydro-isoindole at room temperature for 1 hour. The undissolved solid is filtered off with suction, washed with water and acetonitrile and dried at 120° C. under a high vacuum. 0.4 g of 1-cyclopropyl-6-fluoro-1,4-dihydro-7-(4-methylamino-1,3,3a,4,7,7a-hexahydro-isoindol-2-yl)-4-oxo-1,8-naphthyridine-3-carboxylic acid is obtained as a crude product, which is dissolved in 5 ml of half-concentrated hydrochloric acid under the influence of heat. The hydrochloride is precipitated by addition of ethanol, filtered off with suction and dried at 120° C. under a high vacuum.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 1 mmol, 282 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
reactant | 4-methylamino-1,3,3a,4,7,7a-hexahydro-isoindole | 2 mmol, 310 mg | CNC1C2CNCC2CC=C1 | C9H16N2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-7-(4-methylamino-1,3,3a,4,7,7a-hexahydro-isoindol-2-yl)-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.4 g | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CC2CC=CC(C2C1)NC)F)=O)C(=O)O | C21H23FN4O3
